US04770759
To 280 ml (5.0 mol) of ethylene glycol is added 17.25 g (0.75 mol) of sodium metal in small pieces, in order to control the exothermic reaction. The reaction mixture is cooled to room temperature and 80.89 g (0.393 mol) of 1,3-dibromopropane (available from Aldrich Chem. Co., catalog no. 12,590-3) is added dropwise. The reaction is heated to 100° C. for 6 hours. Excess ethylene glycol then is removed by simple distillation under aspirator pressure and 3,7-dioxanonane-1,9-diol is obtained in 17.9% yield from the reaction mixture by fractional distillation at 108°-112° C. and 0.025 mm Hg. A solution of 11.47 g (0.072 mol) of the diol and 17.4 ml (0.215 mole) pyridine in 100 ml of methylene chloride is added to a stirred solution of 26.68 g of tosyl chloride (0.15 mol) in 140 ml methylene chloride. Following addition, the reaction is allowed to stand stirred at 0° C. for 24 hours. The mixture then is washed with water, 10% HCl, and once again with water. The mixture is dried over anhydrous sodium sulfate, and the solvent is removed under reduced pressure to give 33.51 g of a clear oil. Kugelrohr distillation (80° C., 0.005 mm Hg) removes unreacted tosyl chloride, leaving 29.43 g of 3,7-dioxanonane-1,9-diol ditosylate as a slightly brown oil.

reactant | ethylene glycol | 5.0 mol, 280 ml | C(CO)O | C2H6O2
reactant | sodium | 0.75 mol, 17.25 g | [Na] | Na
reactant | 1,3-dibromopropane | 0.393 mol, 80.89 g | BrCCCBr | C3H6Br2
product | 3,7-dioxanonane-1,9-diol | 17.9% yield | C(COCCCOCCO)O | C7H16O4
